Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Percocet / Vicodin / Cymbalta / Lisinopril / 
hydralazine-hydrochlorothiazid / Codeine / Darvon / Trazodone / 
Dilaudid
 
Attending: ___.
 
Chief Complaint:
Hand cramping
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with HTN, HL, DM2, CAD s/p cath ___ w/ 3VD scheduled for 
CABG with Dr. ___ ___ p/w shoulder, arm and finger 
"cramping".  Patient reports that last night she developed 
bilateral arm and hand pain of a "crampy/achey" nature that was 
not accompanied by CP, SOB, palpitations, diaphoresis.  Pain 
persisted and has slowly improved, so that now cramping only in 
fingers/hand.  Pt also reported periodic pain localizing to her 
L breast, L shoulder, L leg over the last month, none of which 
was occuring at admission.  Patient also reported reports mild 
shortness of breath x1wk, not related to exertion, position, 
without coughing, fevers, chills.  Patient reports that none of 
these symptoms are similar to prior cardiac symptoms.  She did 
not take anything for pain at the time.  
.
Of note patient has a history of R shoulder pain.
.
In the ED, initial vital signs were 97.3 72 163/74 14 100%RA. 
Physical exam signficant for reported decreased sensation in 
hands.  Her EKG was unchanged w NSR, nl axis, no ST-T waves 
changes.  CE enzyme x1, CXR unchanged.  Labs were significant 
for K 5.2, Cr 1.2 (baseline), Hct 36.7, CE negx1. She was given 
SLNTG w/o change in pain.  Also got ASA 325 mg, amlodipine 
2.5mg, ativan 0.5mg.  
.
At time of transfer vitals were afebrile, 64, 120/63, 18, 96% 
RA. 
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.
.
On arrival to the floor, patient's vital signs were 98.0 145/69 
65 14 100%RA.
 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
-CAD w known 3VD, scheduled for CABGx3 ___. OTHER PAST MEDICAL HISTORY:  
-Fibromyalgia
-Chronic back pain
-Lumbar spinal stenosis
-Right shoulder and hip bursitis
-Shingles
-Alopecia
-Obesity
-Depression
-Cataract
-Retinopathy
-Neuropathy
-GERD
-s/p Surgery to L4, L5 and S1 for spinal stenosis
-s/p Right rotator cuff repair
-s/p Total abdominal hysterectomy c/b small bowel obstruction
-s/p Ex-Lap, Lysis of Adhesions with Nephrectomy
 
Social History:
___
Family History:
No premature CAD
 
Physical Exam:
ON ADMISSION
98.0 145/69 65 14 100%RA.
GENERAL: NAD. AOx3. Comfortable.
HEENT: PERRL, EOMI, Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa.
NECK: Supple without JVD.  
CARDIAC: RRR, nlS1/S2. No m/r/g. No S3 or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No abdominial bruits.
EXTREMITIES: No c/c/e. 
SKIN: No stasis dermatitis, ulcers, scars.
PULSES:
Right: Radial 2+ Carotid 2+ DP 2+ ___ 2+
Left: Radial 2+ Carotid 2+ DP 2+ ___ 2+

ON DISCHARGE
VS: 98.2 102/62 55 18 98%RA ___
GENERAL: NAD. AOx3. Comfortable.
HEENT: PERRL, EOMI, Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa.
NECK: Supple without JVD.  
CARDIAC: RRR, nlS1/S2. No m/r/g. No S3 or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No abdominial bruits.
EXTREMITIES: No c/c/e. 
SKIN: No stasis dermatitis, ulcers, scars.
PULSES:
Right: Radial 2+ Carotid 2+ DP 2+ ___ 2+
Left: Radial 2+ Carotid 2+ DP 2+ ___ 2+
 
Pertinent Results:
Blood Counts
___ 01:00PM BLOOD WBC-6.3 RBC-3.93* Hgb-12.6 Hct-36.7 
MCV-93 MCH-32.1* MCHC-34.3 RDW-13.3 Plt ___
___ 07:00AM BLOOD WBC-5.9 RBC-3.82* Hgb-11.5* Hct-34.9* 
MCV-91 MCH-30.2 MCHC-33.0 RDW-13.5 Plt ___

Chemistry
___ 01:00PM BLOOD Glucose-147* UreaN-21* Creat-1.2* Na-137 
K-8.0* Cl-105 HCO3-19* AnGap-21*
___ 07:00AM BLOOD Glucose-92 UreaN-22* Creat-1.3* Na-141 
K-4.5 Cl-108 HCO3-27 AnGap-11

Muscular
___ 01:00PM BLOOD CK(CPK)-589*
___ 07:37PM BLOOD CK(CPK)-411*
___ 07:00AM BLOOD CK(CPK)-298*

Cardiac
___ 01:00PM BLOOD cTropnT-<0.01
___ 07:37PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-2 cTropnT-<0.01

___ CXR
No change from ___, including no evidence of 
congestive failure. 
 
Brief Hospital Course:
HOSPITAL COURSE
___ old female w HTN, HLD, DM, CAD w 3VD scheduled for 
CABGx3, chronic pain syndromes, who presented w bilateral hand 
cramping, was ruled out for ACS with neg EKG and CE x3, was not 
found to have any concerning underlying etiologies and was 
discharged with instructions to return on ___ for her 
CABG
.
ACTIVE
# Cramping: In a patient w cardiac risk factors and known 3VD, 
ACS was considered in the setting of her 1d hand/arm cramping.  
However, given the atypical nature of her symptoms (bilateral 
arms, L leg, no chest pain), as well as her unchanged EKG and CE 
negx1, it was thought to be an unlikely cause.  Metabolic 
process was considered, but the lack of electrolyte 
abnormalities, glucose abnormalities, and symptoms w exertion, 
made this less likely.  No midline pain, recent trauma, or 
dermatomal pattern of symptoms made radiculopathy less likely.  
CK was nl so myositis was less likely.  The patient was ruled 
out for ACS with CE negx3.  She was continued on Zocor, 
Amlodipine, Aspirin, Imdur, BB.
.
INACTIVE
# HTN: Patient was contineud on home amlodipine, spirinolactone, 
toprolXL
.
#Chronic Pain: Patient was contineud on Qualaquin
.  
# GERD: Patient was contineud on home omeprazole. 
.
# DM: Patient was continued on home Glyburide-Metformin.  
.
TRANSITIONAL
1. Code: Patient remained full code for the duration of the 
admission
2. Pending: No labs pending at time of discharge
3. Transition of Care: Cardiac Surgery was made aware of 
patient's admission.  At time of discharge, she was instructed 
that ___ would follow-up with her via telephone on ___ 
___ to discuss her pre-op instructions. 
 
Medications on Admission:
Amlodpine 2.5mg daily
Zocor 20mg daily
Omeprazole 20mg daily
Aspirin 81mg daily
Spirinolactone 50mg twice daily
Toprol XL 25mg daily
Qualaquin 324mg 2 capsules daily
Glyburide-Metformin ___ daily
Imdur 30mg daily
 
Discharge Medications:
1. quinine sulfate 324 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. isosorbide mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Toprol XL 25 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
7. glyburide-metformin ___ mg Tablet Sig: One (1) Tablet PO 
once a day.  
8. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
9. spironolactone 50 mg Tablet Sig: One (1) Tablet PO twice a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
Hand cramping

SECONDARY
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted with hand cramping.  Your 
electrocardiogram and cardiac enzymes showed that you were not 
having a heart attack.  Your blood tests did not show any signs 
of muscle inflammation either.  At this time we are not 
concerned about any acute dangerous processes.  You you are 
ready to be discharged today and should return for your Coronary 
Artery Bypass Graft Surgery on ___.

During this hospitalization your medications were not changed.  
 
Followup Instructions:
___